* Backward Path Tests (Tests 4)
* Weight update via bk_mult_ac cells at testbench level
* AC coupling blocks DC offset; .ic pre-charges coupling caps

.include testbench.spice

* Backward weight update cells — own bias infrastructure
R_bk_tb_bias_top vcc bk_tb_bias_raw 4.7k
R_bk_tb_bias_bot bk_tb_bias_raw vee 15k
Q_bk_tb_bias_buf vcc bk_tb_bias_raw w_bias_bk_tb NPN_AN
R_bk_tb_bias_load w_bias_bk_tb vee 20k

R_bk_tb_tail_ref vcc bk_tb_tail_ref_c 4.65k
Q_bk_tb_tail_ref bk_tb_tail_ref_c bk_tb_tail_ref_c vee NPN_AN

R_bk_tb_ref3_top vcc bk_tb_ref3_raw 2.6k
R_bk_tb_ref3_bot bk_tb_ref3_raw vee 13k
Q_bk_tb_ref3_buf vcc bk_tb_ref3_raw bk_tb_ref3 NPN_AN
R_bk_tb_ref3_load bk_tb_ref3 vee 10k

* Weight update cells using AC-coupled variant
X_bk1 vin1 err_in w1_node vcc vee w_bias_bk_tb bk_tb_tail_ref_c bk_tb_ref3 bk_mult_ac
X_bk2 vin2 err_in w2_node vcc vee w_bias_bk_tb bk_tb_tail_ref_c bk_tb_ref3 bk_mult_ac

* Pre-charge internal coupling cap nodes to match INJECT initial values
* This ensures C_couple starts with the right voltage (bk_out - INJECT)
.ic V(x_bk1.bk_ac)=0.7 V(x_bk2.bk_ac)=-0.4

.control

set noaskquit

* =====================================================================
* Test 4: Backward Path - Weight Update
* =====================================================================
echo ""
echo "============================================"
echo "Test 4: Backward Weight Update"
echo "============================================"
* Static inputs during learning
alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = -0.3
alter @Vin2[sin] = [ -0.3 0 0 0 0 0 ]
* Error pulse: 0.5V for 50ms starting at 10ms
alter Verr DC = 0
alter @Verr[pulse] = [ 0 0.5 10m 100u 100u 50m 200m ]
tran 100u 150m UIC
wrdata neuron_backward.txt V(w1_node) V(w2_node) V(err_in) V(vout)
echo "Diagnostics:"
meas TRAN bk_ac1_early FIND V(x_bk1.bk_ac) AT=0.5m
meas TRAN bk_ac2_early FIND V(x_bk2.bk_ac) AT=0.5m
meas TRAN bk_out1 FIND V(x_bk1.bk_out) AT=0.5m
meas TRAN bk_out2 FIND V(x_bk2.bk_out) AT=0.5m
meas TRAN w1_pre  FIND V(w1_node) AT=9m
meas TRAN w1_mid  FIND V(w1_node) AT=40m
meas TRAN w1_end  FIND V(w1_node) AT=61m
meas TRAN w1_post FIND V(w1_node) AT=80m
meas TRAN w2_pre  FIND V(w2_node) AT=9m
meas TRAN w2_mid  FIND V(w2_node) AT=40m
meas TRAN w2_end  FIND V(w2_node) AT=61m
meas TRAN w2_post FIND V(w2_node) AT=80m
echo "--- Weight at pulse start, mid-pulse, pulse end, post-settle ---"
echo "W1:"
print w1_pre w1_mid w1_end w1_post
echo "W2:"
print w2_pre w2_mid w2_end w2_post
let dw1_pulse = w1_end - w1_pre
let dw2_pulse = w2_end - w2_pre
let dw1_total = w1_post - w1_pre
let dw2_total = w2_post - w2_pre
echo "--- Weight changes during pulse (pre to end) ---"
print dw1_pulse dw2_pulse
let ratio_pulse = abs(dw1_pulse / dw2_pulse)
echo "Ratio during pulse (expect 1.67):"
print ratio_pulse
echo "--- Weight changes total (pre to post-settle) ---"
print dw1_total dw2_total
let ratio_total = abs(dw1_total / dw2_total)
echo "Ratio total:"
print ratio_total

echo ""
echo "Backward test complete."

.endc
.end
